US07820822B2
C: 1-(2-Bromophenyl)isoquinoline
A mixture of 28.6 g (100 mmol) of 1-(2-bromophenyl)-3,4-dihydroisoquinoline, 86.9 g (1 mol) of manganese dioxide and 200 ml of 1,2-dichlorobenzene was stirred at 180° C. for 5 h. After cooling, the mixture was diluted with 500 ml of toluene and filtered through silica gel. After the solvent had been removed, the product was obtained as a yellow oil. The yield at a purity of approx. 99.0% was 26.0 g (91 mmol), 91.4% of theory.

reactant | 1-(2-bromophenyl)-3,4-dihydroisoquinoline | 100 mmol, 28.6 g | BrC1=C(C=CC=C1)C1=NCCC2=CC=CC=C12 | C15H12BrN
reactant | 1,2-dichlorobenzene | 200 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 1 mol, 86.9 g | [O-2].[O-2].[Mn+4]
product | 1-(2-Bromophenyl)isoquinoline | BrC1=C(C=CC=C1)C1=NC=CC2=CC=CC=C12 | C15H10BrN
